US07091227B2
N-Ethyl-N′-[6-(1H-1-pyrrolyl)-1,3-benzothiazol-2-yl]urea
Charged about 500 mg N-ethyl-N′-(6-nitro-1,3-benzothiazol-2-yl)urea into about 75 ml ethanol. Added about 20 mg platinum oxide then evacuated and released to hydrogen three times. The system was then put under hydrogen pressure (about 20–40 psi) for about 5–20 hours. The reaction was stopped and the entire mass was filtered through diatomaceous earth and washed with methanol. The solvent was removed in vacuo and the crude N-(6-amino-1,3-benzothiazol-2-yl)-N′-ethylurea was used for the next step without further purification. Charged about 0.44 g N-(6-amino-1,3-benzothiazol-2-yl)-N′-ethylurea into about 15 ml acetic acid then added about 0.23 ml 2,5-dimethoxytetrahydrofuran. Refluxed for about 1 hour then cooled to room temperature. The solvent was removed in vacuo and the product was purified by preparative HPLC. 1H NMR 1.1 (t, 3H), 3.2 (m, 2H), 6.26 (m, 2H), 6.71 (m, 1H), 7.35 (m, 2H), 7.55 (m, 1H), 7.7 (m, 1H), 8.1 (m, 1H), 10.69 (br s, 1H); LC/MS 3.1 min, 285 (M−1).

reactant | N-ethyl-N′-(6-nitro-1,3-benzothiazol-2-yl)urea | about 500 mg | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C10H10N4O3S
catalyst | platinum oxide | about 20 mg | [Pt]=O
solvent | ethanol | about 75 ml | C(C)O | C2H6O
product | N-Ethyl-N′-[6-(1H-1-pyrrolyl)-1,3-benzothiazol-2-yl]urea | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)N2C=CC=C2 | C14H14N4OS
